US08106215B2
2-Amino-5-m-tolyl-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-2-oxo-3-m-tolyl-propionic acid methyl ester with thiourea. LC-MS: tR=0.78 min; [M+H]+=249.0.

reactant | 3-chloro-2-oxo-3-m-tolyl-propionic acid methyl ester | COC(C(C(C=1C=C(C=CC1)C)Cl)=O)=O | C11H11ClO3
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-5-m-tolyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C=1C=C(C=CC1)C)N | C12H12N2O2S
